US07230031B2
7-(4-Benzyloxy-3-iodophenoxy)-6-methylindan-4-ylamine
To a solution of 4-(4-benzyloxy-3-iodophenoxy)-5-methyl-7-nitroindane (4.18 g) in ethyl acetate (15 mL) was added 5% Pt/C (860 mg). The mixture was stirred under a hydrogen atmosphere at room temperature for 2 hours. The insoluble material was removed by filtration. The filtrate was evaporated under reduced pressure to dryness to give the title compound (3.89 g).

reactant | 4-(4-benzyloxy-3-iodophenoxy)-5-methyl-7-nitroindane | 4.18 g | C(C1=CC=CC=C1)OC1=C(C=C(OC2=C3CCCC3=C(C=C2C)[N+](=O)[O-])C=C1)I | C23H20INO4
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pt/C | 860 mg | [Pt] | Pt
product | 7-(4-Benzyloxy-3-iodophenoxy)-6-methylindan-4-ylamine | 3.89 g | C(C1=CC=CC=C1)OC1=C(C=C(OC=2C(=CC(=C3CCCC23)N)C)C=C1)I | C23H22INO2
